US06348468B1
Preparation of 6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-5-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 6-(3-fluoro-4-methoxyphenyl)-5-(4-methoxyphenyl)-2H-pyridazin-3-one and isobutyl bromide as starting materials, the procedures of Example 146 were repeated likewise, whereby the title compound was obtained in a yield of 91.3%.

reactant | 6-(3-fluoro-4-methoxyphenyl)-5-(4-methoxyphenyl)-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C(=CC(NN1)=O)C1=CC=C(C=C1)OC | C18H15FN2O3
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
product | 6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-5-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 91.3% | FC=1C=C(C=CC1OC)C=1C(=CC(N(N1)CC(C)C)=O)C1=CC=C(C=C1)OC | C22H23FN2O3
